US04923857
To a solution of (2S,4R)-1-allyloxycarbonyl-2-hydroxymethyl-4-methanesulfonyloxypyrrolidine (20.0 g) in N,N-dimethylformamide (200 ml) were added ammonium chloride (5.74 g) and sodium azide (6.98 g). The resulting mixture was heated at 75° C for 8 hours. After cooling, the mixture was diluted with ethyl acetate (1 l) and aqueous sodium hydrogen carbonate (1 l). The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated in vacuo to give (2S,4S)-1-allyloxycarbonyl-4-azido-2-hydroxymethylpyrrolidine.

reactant | (2S,4R)-1-allyloxycarbonyl-2-hydroxymethyl-4-methanesulfonyloxypyrrolidine | 20.0 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CO | C10H17NO6S
reactant | ammonium chloride | 5.74 g | [Cl-].[NH4+]
reactant | sodium azide | 6.98 g | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 1 l | C(C)(=O)OCC | C4H8O2
solvent | sodium hydrogen carbonate | 1 l | C(O)([O-])=O.[Na+]
product | (2S,4S)-1-allyloxycarbonyl-4-azido-2-hydroxymethylpyrrolidine | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)N=[N+]=[N-])CO | C9H14N4O3
